US04772600
2-Phenyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A 7.62-g (0.028 mole) sample of N-[2-[[(aminocarbonyl)methyl]amino]-3-pyridinyl]benzamide was heated in glass in a Wood's metal bath under a flow of nitrogen at 200° C. for 7 minutes. The green solid residue was broken up with a glass rod in methanol and the solid was filtered off. The filtrate was concentrated and the precipitate which formed, was separated by filtering twice. The solids were combined and recrystallized from boiling water to give 3.19 g (45%) of white needles which were dried under high vacuum at room temperature overnight, mp. 226°-7° C.

reactant | N-[2-[[(aminocarbonyl)methyl]amino]-3-pyridinyl]benzamide | NC(=O)CNC1=NC=CC=C1NC(C1=CC=CC=C1)=O | C14H14N4O2
solvent | methanol | CO | CH4O
product | 2-Phenyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.19 g, 45% | C1(=CC=CC=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N | C14H12N4O
